US08039469B2
Preparation of 1-(4-methylphenyl)-3-{4-[4-morpholin-4-yl-6-(8-oxa-3-azabicyclo[3.2.1]oct-3-yl)-1,3,5-triazin-2-yl]phenyl}urea
The titled compound was prepared by starting from 4-[4-morpholin-4-yl-6-(8-oxa-3-azabicyclo[3.2.1]oct-3-yl)-1,3,5-triazin-2-yl]aniline (100 mg, 0.27 mmol)-4-tolylisocyanate (60 mg, 0.45 mmol) and DMAP (5 mg) was stirred at room temperature for a period of 24 hours. At the end, reaction mixture was concentrated and purified by Gilson HPLC, using ACN/water and TFA. White solid; mp: 228; Yield 80 mg (80%); (M+H) 502.4

reactant | 4-[4-morpholin-4-yl-6-(8-oxa-3-azabicyclo[3.2.1]oct-3-yl)-1,3,5-triazin-2-yl]aniline | 0.27 mmol, 100 mg | N1(CCOCC1)C1=NC(=NC(=N1)N1CC2CCC(C1)O2)C2=CC=C(N)C=C2 | C19H24N6O2
reactant | 4-tolylisocyanate | 0.45 mmol, 60 mg | C1(=CC=C(C=C1)N=C=O)C | C8H7NO
catalyst | DMAP | 5 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | 1-(4-methylphenyl)-3-{4-[4-morpholin-4-yl-6-(8-oxa-3-azabicyclo[3.2.1]oct-3-yl)-1,3,5-triazin-2-yl]phenyl}urea | CC1=CC=C(C=C1)NC(=O)NC1=CC=C(C=C1)C1=NC(=NC(=N1)N1CCOCC1)N1CC2CCC(C1)O2 | C27H31N7O3
